US05750531
Step 1: 5-Methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine
In accordance with the same procedure as in Step 1 of Example 1, except that 1-methyl-1,2,3,4-tetrahydroisoquinoline (2.3 g, 15.6 mmol) and 2,4-dichloro-5-methyl-6-ethylpyrimidine (2.7 g, 14.1 mmol) prepared in Preparation 4 were used as starting materials, 2.3 g of the titled compound was prepared. (Yield: 54%)

reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 15.6 mmol, 2.3 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | 2,4-dichloro-5-methyl-6-ethylpyrimidine | 14.1 mmol, 2.7 g | ClC1=NC(=C(C(=N1)Cl)C)CC | C7H8Cl2N2
product | 5-Methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.3 g, Yield: 54% | CC=1C(=NC(=NC1CC)Cl)N1CC2=CC=CC=C2CC1 | C16H18ClN3
